US04487929
(B)(a) 1.21 g (5 mmol) of 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione were suspended in 20 ml of dry dioxan and the suspension was stirred at room temperature under a stream of nitrogen. A solution of 0.543 g (5 mmol) of tert.butyl hypochlorite in 5 ml of dry dioxan was added over a period of 15 minutes. The resulting blue solution was filtered and the filtrate was evaporated in vacuo. The residue was dissolved in 10 ml of dry dioxan and the solution was added portionwise to a stirred solution of 0.616 g (5.5 mmol) of methyl penta-2,4-dienoate in 20 ml of dry dioxan. The blue color was allowed to fade between additions. When the addition was complete and no blue color persisted, the solution was stirred at room temperature for 1 hour. The resulting solution was evaporated in vacuo and the residue was chromatographed on silica gel. Elution with diethyl ether gave 0.52 g (29%) of methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate having a melting point of 127.5°-128.5° C. (from diethyl ether).

reactant | 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)ethyl]pyrazolidine-3,5-dione | 5 mmol, 1.21 g | CC1(C(NNC1=O)=O)CCOC1OCCCC1 | C11H18N2O4
reactant | tert.butyl hypochlorite | 5 mmol, 0.543 g | ClOC(C)(C)C | C4H9ClO
reactant | methyl penta-2,4-dienoate | 5.5 mmol, 0.616 g | C(C=CC=C)(=O)OC | C6H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.52 g, 29% | CC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOC1OCCCC1 | C17H24N2O6
